data/mechanism_extracts/Tetrahedron/10.1016_j.tetlet.2021.153514.json
{"doi": "10.1016_j.tetlet.2021.153514", "journal": "Tetrahedron", "is_review": false, "rxn_class_summary": "Electrochemical C-H halogenation (chlorination and bromination) of electron-deficient arenes/heterocycles (quinones, coumarins, quinoxalin-2(1H)-ones, 1,3-diketones) using HX as halide source in an undivided cell", "mechanism_family": ["paired_electrolysis", "mediator_anodic"], "electrochemical_role": "Cathodic reduction of benzoquinone to hydroquinone, and anodic oxidation of chloride to Cl2 (electrophilic chlorinating species); after SEAr on hydroquinone, anodic reoxidation regenerates the quinone product", "key_intermediates": [{"name": "hydroquinone (cathodic 2e-/2H+ reduction product of quinone)", "smiles": "Oc1ccc(O)cc1", "role": "reactive"}, {"name": "molecular chlorine (Cl2) generated by anodic oxidation of chloride", "smiles": "ClCl", "role": "reactive"}, {"name": "chlorinated hydroquinone (SEAr intermediate)", "smiles": "Oc1ccc(O)c(Cl)c1", "role": "transient"}, {"name": "chlorinated quinone product (after anodic reoxidation)", "smiles": "O=C1C=CC(=O)C(Cl)=C1", "role": "reactive"}], "electron_flow": "Cathode reduces the quinone (with H+) to the hydroquinone while the anode oxidizes Cl- to Cl2; Cl2 electrophilically chlorinates the electron-rich hydroquinone, and the chlorinated hydroquinone is then reoxidized at the anode to deliver the halogenated quinone product.", "rate_determining_step": null, "probe_reagents": [{"name": "BHT (2,6-di-tert-butyl-4-methylphenol)", "smiles": "Cc1cc(C(C)(C)C)c(O)c(C(C)(C)C)c1", "purpose": "radical_trap", "observation": "Reaction completely suppressed; BHT-Cl adduct 3a detected by HRMS, but authors interpret results as inconsistent with a free-radical pathway"}, {"name": "N,N-diallyl-4-methylbenzenesulfonamide", "smiles": "Cc1ccc(S(=O)(=O)N(CC=C)CC=C)cc1", "purpose": "radical_clock", "observation": "Gave dichlorinated open-chain product 3b in 54% yield with no cyclization, arguing against a radical addition pathway and supporting an electrophilic (ionic) chlorination"}, {"name": "cyclic voltammetry", "smiles": null, "purpose": "redox_probe", "observation": "CV analysis supports cathodic reduction of quinone and anodic oxidation of chloride, consistent with the proposed paired mechanism"}], "evidence_types_used": ["intermediate_trap_BHT", "radical_clock", "cyclic_voltammetry", "on/off_light_or_current"], "evidence_strength": "medium", "notes": "Although BHT shut down the reaction and a BHT-Cl adduct was detected (which could suggest radical involvement), the lack of cyclization in the diallylsulfonamide probe led the authors to favor an electrophilic (ionic) chlorination by anodically generated Cl2 on a cathodically generated hydroquinone, rather than a free-radical chain. A no-current control gave no reaction, confirming the electrochemical requirement."}
